US07375115B2
tert-Butyl 2-(3-hydroxypropyl)phenylcarbamate
To a solution of 3-(2-aminophenyl)propan-1-ol (660 mg) in tetrahydrofuran (10 mL) were added triethylamine (1.52 mL) and di-tert-butyl dicarbonate (1.91 g) under ice cooling. The solution was stirred at room temperature for 20 hours. Ethyl acetate and water were added to carry out extraction. The organic layer was washed in turn with 1N hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, hexane:ethyl acetate=60:40) to give the title compound (730 mg).

reactant | 3-(2-aminophenyl)propan-1-ol | 660 mg | NC1=C(C=CC=C1)CCCO | C9H13NO
reactant | triethylamine | 1.52 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-Butyl 2-(3-hydroxypropyl)phenylcarbamate | 730 mg | OCCCC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C14H21NO3
